US05861401
2-Amino-5-bromo-6-chloropyrazine (0.417 g) was added to a stirred suspension of sodium hydride (oil-free; 0.24 g) in dry dimethoxyethane (20 ml). When evolution of hydrogen ceased, 5-dimethylamino-1-naphthalenesulphonyl chloride (0.594 g) was added. The mixture was stirred for 24 hours and then water (25 ml) and 2M hydrochloric acid (2 ml) were added. The mixture was extracted with ethyl acetate (2×25 ml) and the extracts were dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by elution with ethyl acetate/hexane (1:3 v/v) through a silica gel Mega Bond Elut column to give 5-dimethylamino-N-(5-bromo-6-chloro-2-pyrazinyl)-1-naphthalenesulphonamide (0.46 g), m.p. 180°-182° C. (after trituration with ether); mass spectrum (+ve FAB, methanol/NBA): 442 (M+).

reactant | 2-Amino-5-bromo-6-chloropyrazine | 0.417 g | NC1=NC(=C(N=C1)Br)Cl | C4H3BrClN3
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-dimethylamino-1-naphthalenesulphonyl chloride | 0.594 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | hydrochloric acid | 2M, 2 ml | Cl | ClH
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | 25 ml | O | H2O
product | 5-dimethylamino-N-(5-bromo-6-chloro-2-pyrazinyl)-1-naphthalenesulphonamide | 0.46 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=NC(=C(N=C1)Br)Cl)C | C16H14BrClN4O2S
